US09102664B2
Step-b): Preparation of (R)-3-((3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetra hydrofuran-3-carbonyl)-4-phenyloxazolidin-2-one (Formula-6)
To the above obtained dichloromethane layer containing (R)-3-((S)-4-(2,4-difluoro phenyl)-2-(hydroxymethyl)pent-4-enoyl)-4-phenyloxazolidin-2-one compound of formula-5, added sodium carbonate (59.4 g) followed by iodine (177.8 g) and the reaction mixture was stirred for 3 hours at 25-35° C. After completion of the reaction, the reaction mixture was quenched with 30% hypo solution and the reaction mixture was extracted with methyl tertiary butyl ether. Both organic and aqueous layers were separated and the organic layer was washed with 30% hypo solution, followed by 10% sodium chloride solution. Distilled off the solvent completely from the organic layer. Isopropanol (600 ml) was added to the obtained compound and the reaction mixture was stirred for 1½ hour at 25-30° C. Filtered the solid, washed with isopropyl alcohol and then dried to get the title compound. Yield: 65 g; Chiral purity: 99.5%

reactant | (R)-3-((S)-4-(2,4-difluoro phenyl)-2-(hydroxymethyl)pent-4-enoyl)-4-phenyloxazolidin-2-one | FC1=C(C=CC(=C1)F)C(C[C@H](C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)CO)=C | C21H19F2NO4
reactant | sodium carbonate | 59.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodine | 177.8 g | II | I2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-3-((3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetra hydrofuran-3-carbonyl)-4-phenyloxazolidin-2-one | FC1=C(C=CC(=C1)F)[C@]1(C[C@@H](CO1)C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)CI | C21H18F2INO4
